US07060710B2
a) Methyl (5-methyl-3-(4-pyridyl)isoxazol-4-yl) carboxylate
Sodium (0.400 g, 0.0166 mol) was added to anhydrous methanol under nitrogen. After complete dissolution, the reaction vessel was cooled to 0° C. and methyl acetoacetate (1.8 ml, 0.166 mol) added. A solution of N-hydroxy-4-pyridine carboximidoyl chloride (2 g, 0.0128 mol; prepared according to Kocevar, M., Synth. Commun., 1988, 18(12), 1427) was added dropwise over 20 minutes. The reaction was stirred at 25° C. for 16 h, and quenched with acetic acid (1 ml). The methanol was removed in vacuo and the product partitioned between EtOAc and water. The organic layer was collected, dried over MgSO4, and evaporated. The residue was chromatographed on silica eluting with 20% EtOAc/hexane→EtOAc to obtain the title compound as a beige solid (1.2 g). 1H NMR (400 MHz, CDCl3) δ 8.73–8.71 (m, 2H), 7.57–7.56 (m, 2H), 3.80 (s, 3H), 2.77(s, 3H).

reactant | Sodium | 0.0166 mol, 0.400 g | [Na] | Na
reactant | methyl acetoacetate | 0.166 mol, 1.8 ml | C(CC(=O)C)(=O)OC | C5H8O3
reactant | N-hydroxy-4-pyridine carboximidoyl chloride | 0.0128 mol, 2 g | ON=C(C1=CC=NC=C1)Cl | C6H5ClN2O
solvent | methanol | CO | CH4O
product | Methyl (5-methyl-3-(4-pyridyl)isoxazol-4-yl) carboxylate | 1.2 g | CC1=C(C(=NO1)C1=CC=NC=C1)C(=O)OC | C11H10N2O3
